US08604023B2
N-(5-(7-Chloro-3-(2-chlorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)acetamide
N-(5-(7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)acetamide (210 mg, 0.366 mmol) was dissolved in anisole (1 mL) under nitrogen and AlCl3 (195 mg, 1.465 mmol) was added in one portion. The resulting orange solution was heated to 85° C. for 2 h then allowed to cool. Ice and ethyl acetate were added and the mixture was stirred for 30 min then partitioned and the organic layer was washed with water then brine and dried (MgSO4). Chromatography on silica gel eluting with 10%-50%-70% ethyl acetate in hexanes gave the product (120 mg, 72% yield). 1H-NMR (300 MHz, CDCl3) δ 7.62-7.5 (m, 3H), 7.5-7.20 (m, 7H), 6.49 (s, 1H), 6.47 (s, 1H), 4.31 (dd, 1H), 4.25-4.17 (m, 2H), 3.59 (dd, 1H), 3.35 (dd, 1H). HRMS (ES+) m/z calcd for C23H18Cl2N4O2 [M+H]+, 453.0885. found, 453.0872.

reactant | N-(5-(7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)acetamide | 0.366 mmol, 210 mg | ClC1=CC2=C(N(C(C(N=C2C=2C=CC(=NC2)NC(C)=O)CC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C31H26Cl2N4O3
reactant | AlCl3 | 1.465 mmol, 195 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
product | N-(5-(7-Chloro-3-(2-chlorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)acetamide | 120 mg, 72% yield | ClC1=CC2=C(NC(C(N=C2C=2C=CC(=NC2)NC(C)=O)CC2=C(C=CC=C2)Cl)=O)C=C1 | C23H18Cl2N4O2
